### PR TITLE
[Merged by Bors] - feat: a Lie module with trivial trace form is nilpotent over the derived subalgebra

### PR DESCRIPTION
**Pull request by jano-wol**
This is the key technical lemma required for Cartan's criteria for solvability and semisimplicity.

---
This pull request introduces a proof of the trace-nilpotency criterion over algebraically closed fields of characteristic zero. We show that for a finite-dimensional representation M of a Lie algebra L with `traceForm K L M = 0` the [L, L]-module M is nilpotent.

Cartan's criterion proof overview following Humphreys, Ch. 4, pp. 31–32. We plan to deliver the proof in 3 steps:

1. This PR: Prove the trace-nilpotency criterion over algebraically closed fields. Uses Jordan–Chevalley decomposition, Lagrange interpolation.

2. Remove the algebraic closure assumption by scalar extension.

3. Prove Cartan's criterion by Engel's theorem + PR 2. This is the easiest out of the three steps.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/NilpotentOfTrace.lean [hunk 1]
```diff
@@ -0,0 +1,190 @@
...
+@[expose] public section
+
+namespace NilpotentOfTrace
+
+open LinearMap Module.End Polynomial
+
+variable {K : Type*} [Field K] {V : Type*} [AddCommGroup V] [Module K V]
+
+/-- The set `M = {x ∈ Module.End K V | ∀ b ∈ B, ⁅x, b⁆ ∈ A}`. -/
+abbrev M (A B : Submodule K (Module.End K V)) : Set (Module.End K V) := {x | ∀ b ∈ B, ⁅x, b⁆ ∈ A}
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/NilpotentOfTrace.lean]: Just quickly noting that if `A` and `B` are Lie ideals then this is `(A.restr B).normalizer`.

File: Mathlib/Algebra/Lie/NilpotentOfTrace.lean [hunk 2]
```diff
@@ -0,0 +1,190 @@
...
+  {V : Type*} [AddCommGroup V] [Module K V] [FiniteDimensional K V]
+
+open Algebra LieAlgebra LinearMap Module.End NilpotentOfTrace Polynomial in
+/-- If `x ∈ M A B` is trace-orthogonal to all of `M A B`, then `x` is nilpotent. -/
+theorem isNilpotent_of_trace_orthogonal_algClosed
+    (A B : Submodule K (Module.End K V))
+    (hAB : A ≤ B)
+    (x : Module.End K V)
+    (hxM : x ∈ M A B)
+    (htr : ∀ y ∈ M A B, trace K V (x * y) = 0) :
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/NilpotentOfTrace.lean]: This is exactly the condition `(htr : ∀ y ∈ M A B, LieModule.traceForm K _ V x y = 0)`, or equivalently that `x` belongs to `((LieModule.traceForm K _ V).restrict (A.restr B).normalizer).ker`.

**Review by ocfnash — COMMENTED** [review]
Thanks!

I'll review this either tomorrow or Tuesday. I've just left two quick remarks for my future self which suggest to me that there is a more general setup we might be able to consider using.

File: Mathlib/Algebra/Lie/NilpotentOfTrace.lean [hunk 3]
```diff
@@ -0,0 +1,190 @@
...
+end Lagrange
+
+end NilpotentOfTrace
+
+variable {K : Type*} [Field K] [IsAlgClosed K] [CharZero K]
+  {V : Type*} [AddCommGroup V] [Module K V] [FiniteDimensional K V]
+
+open Algebra LieAlgebra LinearMap Module.End NilpotentOfTrace Polynomial in
+/-- If `x ∈ M A B` is trace-orthogonal to all of `M A B`, then `x` is nilpotent. -/
+theorem isNilpotent_of_trace_orthogonal_algClosed
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/NilpotentOfTrace.lean]: I think Humphreys is making a meal of things here and we should do better.

I think the reason that he has two nested subspaces `A` and `B` is that he has decided to work inside `End K V`. I think we'll get a much tidier result if we work with an abstract Lie algebra and a representation of it. I'm running out of time just now but I think perhaps the following (or something like it) is the right substitute for Humphreys's lemma:
```lean
theorem LieModule.foo {K L M : Type*}
    [Field K] [CharZero K] [IsAlgClosed K]
    [LieRing L] [LieAlgebra K L]
    [AddCommGroup M] [Module K M] [LieRingModule L M] [LieModule K L M] [FiniteDimensional K M]
    (I : LieIdeal K L) (hI : I ≤ (traceForm K L M).ker)
    (x : L) (hx : x ∈ I ⊓ LieAlgebra.derivedSeries K L 1) :
    _root_.IsNilpotent (toEnd K L M x) := by
```
or on second thought:
```lean
theorem LieModule.foo {K L M : Type*}
    [Field K] [CharZero K] [IsAlgClosed K]
    [LieRing L] [LieAlgebra K L]
    [AddCommGroup M] [Module K M] [LieRingModule L M] [LieModule K L M] [FiniteDimensional K M]
    (x : L) (hx : x ∈ (traceForm K L M).ker ⊓ LieAlgebra.derivedSeries K L 1) :
    _root_.IsNilpotent (toEnd K L M x) := by
```

Comment (ocfnash) [reply Mathlib/Algebra/Lie/NilpotentOfTrace.lean]: Indeed, glancing at a few Lie theory texts now, they all look superior (to my eyes) to Humphreys.

**Review by ocfnash — COMMENTED** [review]
Thank you as always.

I'm sorry to put you to more trouble, especially as I can see you have polished the proof here quite a bit but unfortunately I think we should work to improve the statement some more here.

I've left some suggestions inline. Please let me know if they're not clear and I will make time to come up with a more precise proposal.

File: Mathlib/Algebra/Lie/NilpotentOfTrace.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/NilpotentOfTrace.lean]: For example here is Samelson:
image
image
image

Comment (ocfnash) [reply Mathlib/Algebra/Lie/NilpotentOfTrace.lean]: And here are Fulton & Harris:
image
Screenshot 2026-04-08 at 16 12 59
Screenshot 2026-04-08 at 16 13 05

Comment (jano-wol) [reply Mathlib/Algebra/Lie/NilpotentOfTrace.lean]: Thanks for the feedback! Let me look into the details before I decide how to proceed with the PR.

Comment (jano-wol) [reply Mathlib/Algebra/Lie/NilpotentOfTrace.lean]: I compared the current PR's theorem (`isNilpotent_of_trace_orthogonal_algClosed`) with the proposal (`LieModule.foo`). The current PR is somewhat more general, but the proposal is fitting the Lie-algebraic concepts much better. I also checked the Samelson and Fulton-Harris informal proofs, and I think they specialize the statement even a bit further, they prove something like:                                                                                                                                                                    
```
theorem isNilpotent_toEnd_of_traceForm_eq_zero_algClosed {K L M : Type*}
    [Field K] [CharZero K] [IsAlgClosed K]
    [LieRing L] [LieAlgebra K L]
    [AddCommGroup M] [Module K M] [LieRingModule L M] [LieModule K L M] [FiniteDimensional K M]
    (h : traceForm K L M = 0) (x : L) 
    (hx : x ∈ (LieAlgebra.derivedSeries K L 1 : Submodule K L)) :
    _root_.IsNilpotent (toEnd K L M x)
```
Since even this most specialized form is enough to get Cartan's criterion, what do you think, shouldn't we go for this one?

Comment (ocfnash) [reply Mathlib/Algebra/Lie/NilpotentOfTrace.lean]: I agree: if the statement above is sufficient for Cartan (and at first glance, it looks to me that it is) then we should go for this. Thanks!

**Comment by jano-wol** [comment]
I'm finished with the API change. Just two comments:
- I still refer to Humphreys for the proof, I think this is correct, since the main idea of the proof didn't change, and Humphreys handles the general field case most cleanly (not relying on complex conjugation, etc.).
- I factored out lemma `exists_polynomial_eval_eq` which I think might be of more general interest, and I'm wondering whether I should move it to Mathlib/LinearAlgebra/Lagrange.lean. Do you have any preference on this?

File: Mathlib/Algebra/Lie/NilpotentOfTrace.lean [hunk 4]
```diff
@@ -0,0 +1,229 @@
...
+
+open Algebra LieAlgebra LinearMap Module Module.End NilpotentOfTrace Polynomial
+/-- If the trace form of `M` vanishes identically and `x ∈ ⁅L, L⁆`, then `x` acts nilpotently
+on `M`. -/
+theorem isNilpotent_toEnd_of_traceForm_eq_zero_algClosed {K L M : Type*}
+    [Field K] [CharZero K] [IsAlgClosed K]
+    [LieRing L] [LieAlgebra K L]
+    [AddCommGroup M] [Module K M] [LieRingModule L M] [LieModule K L M] [FiniteDimensional K M]
+    (h : traceForm K L M = 0) (x : L) (hx : x ∈ (derivedSeries K L 1 : Submodule K L)) :
+    _root_.IsNilpotent (toEnd K L M x) := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/NilpotentOfTrace.lean]: Thank you for reworking this. I very much prefer this statement. Since we have a fancy version of Engel that works for Lie modules, how about we use it here to state this as:
```suggestion
    (h : traceForm K L M = 0) :
    IsNilpotent (derivedSeries K L 1) M := by
  rw [LieModule.isNilpotent_iff_forall' (R := K)]
  intro ⟨x, hx⟩
  rw [show toEnd K (derivedSeries K L 1) M ⟨x, hx⟩ = toEnd K L M x from rfl]
```

**Review by ocfnash — COMMENTED** [review]
Thanks! I'll review in detail on Monday.

**Comment by ocfnash** [comment]
I finally got to this today. It's looking very good.

I decided to push up a commit, rather than adding many tiny suggestions through the GitHub UI; I'll return tomorrow.

I can't yet tell whether the long proof can be broken down but whatever happens I think proofs of this size deserve some comments. One approach is a series of inline comments, like Johan [did here](https://github.com/leanprover-community/mathlib4/blob/19c497800a418208f973be74c9f5c5901aac2f54/Mathlib/Algebra/Lie/CartanExists.lean#L132-L353), or one large comment, like I [did here](https://github.com/leanprover-community/mathlib4/blob/19c497800a418208f973be74c9f5c5901aac2f54/Mathlib/NumberTheory/WellApproximable.lean#L190-L316).

**Comment by jano-wol** [comment]
> I finally got to this today. It's looking very good.
> 
> I decided to push up a commit, rather than adding many tiny suggestions through the GitHub UI; I'll return tomorrow.
> 
> I can't yet tell whether the long proof can be broken down but whatever happens I think proofs of this size deserve some comments. One approach is a series of inline comments, like Johan [did here](https://github.com/leanprover-community/mathlib4/blob/19c497800a418208f973be74c9f5c5901aac2f54/Mathlib/Algebra/Lie/CartanExists.lean#L132-L353), or one large comment, like I [did here](https://github.com/leanprover-community/mathlib4/blob/19c497800a418208f973be74c9f5c5901aac2f54/Mathlib/NumberTheory/WellApproximable.lean#L190-L316).

Thanks for the help! The proof is indeed quite long, and the inline comments help organize it (even for the authors of the PR). Looking forward to further changes if they were required!

**Comment by ocfnash** [comment]
@jano-wol I worked quite hard refactoring the main theorem today. I was surprised at how tricky this is so I glanced at Bourbaki and I see Humphreys is just copying that so I've added a reference to that too.

I think the main result is in pretty good shape now but I'd like to spend a little more time looking at the rest of the supporting API. After that, I'll ask a second maintainer to take a quick look over this since although the mathematics is all yours, some of the code is now mine.

I'm afraid it will probably not be till Monday that I have time to work on this again but I think it is close to being ready.

Thanks again. Feel free to pick up where I've left off if you like!

**Comment by jano-wol** [comment]
@ocfnash Thank you very much! I’ve pushed a few nitpicks, I don’t have any further findings. Looking forward to the upcoming reviews!

**Comment by ocfnash** [comment]
@jano-wol I made a few more minor tweaks (mostly just moving things to other locations) and I think this is now ready but it will require another maintainer to take a final pass.

**Review by ocfnash — APPROVED** [review]

File: Mathlib/Algebra/Lie/OfAssociative.lean [hunk 5]
```diff
@@ -123,6 +123,13 @@ instance Module.End.instLieModule : LieModule R (Module.End R M) M :=
 
 @[simp] lemma Module.End.lie_apply (f : Module.End R M) (m : M) : ⁅f, m⁆ = f m := rfl
 
+/-- Unfortunately we now have two brackets which are not equal at reducible transparency, even
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/OfAssociative.lean:127]:
```suggestion
-- TODO: fix this
/-- Unfortunately we now have two brackets which are not equal at reducible transparency, even
```
I would like to track this as some form of technical debt. A `TODO` comment is maybe even good enough.

File: Mathlib/Algebra/Lie/CartanCriterion.lean [hunk 6]
```diff
@@ -0,0 +1,164 @@
...
+* Add Cartan's criterion for solvability.
+* Add Cartan's criterion for semisimplicity.
+
+## References
+
+* [N. Bourbaki, *Lie Groups and Lie Algebras, Chapters 1--3*](bourbaki1975) Chapter I. §5.4
+* [J. Humphreys, *Introduction to Lie Algebras and ...*](humphreys1972) Chapter II 4.3
+-/
+
+@[expose] public section
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/CartanCriterion.lean]: I think you could get rid of this line, and just make the main theorem public.
```suggestion
```

File: Mathlib/Algebra/Lie/AdjointAction/JordanChevalley.lean [hunk 7]
```diff
@@ -0,0 +1,57 @@
...
+This file contains results about the interaction between the adjoint action `LieAlgebra.ad` and
+the Jordan–Chevalley decomposition.
+
+## Main results
+
+* `LieAlgebra.ad_mem_adjoin_of_isSemisimple`: for a JC decomposition, `ad(s) ∈ K[ad(n + s)]`.
+* `LieAlgebra.ad_mem_adjoin_of_isNilpotent`: for a JC decomposition, `ad(n) ∈ K[ad(n + s)]`.
+-/
+
+@[expose] public section
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/AdjointAction/JordanChevalley.lean]:
```suggestion
public section
```

**Review by jcommelin — COMMENTED** [review]
Nice milestone!

**Comment by jano-wol** [comment]
@jcommelin: Thanks for the findings, I took over them!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
